US07888364B2
N-(4-Chloro-3-(pyridin-2-yl)phenyl)-3-hydroxy-4-(methylsulfonylmethyl)benzamide (50 mg, 0.12 mmol) was treated with iodoethane (10 μl, 0.12 mmol) via procedure U to yield 22 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-ethoxy-4-(methylsulfonylmethyl)benzamide. MS (Q1) 445 (M)+.

reactant | N-(4-Chloro-3-(pyridin-2-yl)phenyl)-3-hydroxy-4-(methylsulfonylmethyl)benzamide | 0.12 mmol, 50 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)O)=O)C1=NC=CC=C1 | C20H17ClN2O4S
reactant | iodoethane | 0.12 mmol, 10 μl | ICC | C2H5I
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-ethoxy-4-(methylsulfonylmethyl)benzamide | 22 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OCC)=O)C1=NC=CC=C1 | C22H21ClN2O4S
